US04412992
A solution of 7 g. alanine in 65 ml. of 10% aqueous sodium hydroxide solution was treated portionwise, while stirring, with 12.5 g. finely powdered 4-nitrobenzoyl chloride. The reaction mixture was stirred at 5° C. for 20 hours, acidified and the precipitate isolated, washed with water and suction dried. Repeated fractional crystallisation from acetone-diethyl ether (2:1 v/v) gave 4-nitrobenzoylalanine; m.p. 199°-200° C.

reactant | alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-nitrobenzoyl chloride | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
product | 4-nitrobenzoylalanine | [N+](=O)([O-])C1=CC=C(C(=O)N[C@@H](C)C(=O)O)C=C1 | C10H10N2O5
